US05064819
19.3 g of cyclohexylmethylphosphinate are dissolved in 60 ml of absolute tetrahydrofuran under an inert atmosphere. The solution is cooled to 0° C. and a suspension forms which is treated with 12.14 g of triethylamine. An exothermic reaction occurs. The suspension is re-cooled to 0° C. before dropwise addition of 13.02 g of ethylcycloformate. A further exothermic reaction with gas-evolution is observed together with the formation of a white precipitate. The resulting suspension is warmed to 20° and stirred for 20 hours. The solid is removed by filtration and the filtrate is evaporated to dryness. The residue is dissolved in dichloromethane and washed with water. Drying and removal of the solvent affords a pale yellow oil. Distillation under high vacuum affords ethyl cyclohexylmethylphosphinate, b.p. 120°-130° C./2×10-1 mbar. 'H-NMR (CDCl3): δ (ppm)=7.17 (1 H, d, t, 5=527 MZ, P-H), 4.13 (2 H, m, CH2OP), 1.95-1.58 (7 H, m, 3×CH2 +CH), 1.38-0.95 (6 H, m, 3×CH2).

reactant | cyclohexylmethylphosphinate | 19.3 g | C1(CCCCC1)CP([O-])=O
reactant | triethylamine | 12.14 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | ethyl cyclohexylmethylphosphinate | C1(CCCCC1)CP(OCC)=O | C9H19O2P
